US08003651B2
1,8-Diazabicyclo[5.4.0]undec-7-ene (33.68 ml, 225.2 mmol) was added to a solution of methyl 2-(4-chlorophenyl)acrylate (36.9 g, 187.7 mmol) and 2-nitropropane (20.23 ml, 225.2 mmol) in CH3CN (500 mL) at 0° C. under nitrogen. The reaction mixture was warmed to room temperature and stirred overnight. The solution was concentrated in vacuo and subjected to column chromatography (20% EtOAc/hexanes) to give methyl 2-(4-chlorophenyl)-4-methyl-4-nitropentanoate (52.9 g, 98.66% yield) as a colorless oil. Concentrated HCl (10 mL) was added dropwise over 2 minutes to a suspension of methyl 2-(4-chlorophenyl)-4-methyl-4-nitropentanoate (10 g, 35.0 mmol) and zinc (6.41 mL, 700 mmol) in EtOH (250 mL) at 40° C. The mixture was stirred at 40° C. overnight. LCMS shows the desired product and reduced (but non-cyclized) product. The temperature was increased to 50° C. for 8 hours. There was no change by LCMS, so the reaction mixture was diluted with EtOAc (200 mL) and filtered. The filtrate was concentrated in vacuo, taken up into EtOAc/EtOH (500 mL, 9:1), washed with bicarbonate solution, dried over Na2SO4 and concentrated in vacuo. The crude product contained 2-3 compounds, however, the 3-(4-chlorophenyl)-5,5-dimethylpyrrolidin-2-one (6.7 g, 85.6% yield) was the major one, which was used as-is in the next step. LCMS (APCI+) [M-Boc+H]+ 224.1; Rt: 2.90 min.

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 225.2 mmol, 33.68 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl 2-(4-chlorophenyl)acrylate | 187.7 mmol, 36.9 g | ClC1=CC=C(C=C1)C(C(=O)OC)=C | C10H9ClO2
reactant | 2-nitropropane | 225.2 mmol, 20.23 ml | [N+](=O)([O-])C(C)C | C3H7NO2
solvent | CH3CN | 500 mL | CC#N | C2H3N
product | methyl 2-(4-chlorophenyl)-4-methyl-4-nitropentanoate | 52.9 g, 98.66% yield | ClC1=CC=C(C=C1)C(C(=O)OC)CC(C)([N+](=O)[O-])C | C13H16ClNO4
